US04012389
4-Diethylaminoethyl-3-phenyl-1-(o-acetoxy benzoyl)piperazine is prepared by boiling under reflux 15 g. of 1-diethylaminoethyl-2-phenyl-piperazine dissolved in 100 ml. of methyl ethyl ketone with 11 g. of acetyl salicyclic acid chloride dissolved in 50 ml. methyl ethyl ketone, for 6 hours. The solvent is removed by distillation. The residue is dissolved in water. The aqueous solution is extracted with benzene. Ammonia is added to the aqueous layer until its reaction is alkaline and the thus precipitated oil is extracted with benzene. The benzene extract is dried by means of potassium carbonate and the benzene is distilled off. The residue is distilled in a vacuum. Boiling point: 190° C./0.01 mm. (bath temperature). Light yellow, viscous oil.

reactant | 1-diethylaminoethyl-2-phenyl-piperazine | C(C)N(C(C)N1C(CNCC1)C1=CC=CC=C1)CC | C16H27N3
reactant | acetyl salicyclic acid chloride | C(C)(=O)OC=1C(C(=O)Cl)=CC=CC1 | C9H7ClO3
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | 4-Diethylaminoethyl-3-phenyl-1-(o-acetoxy benzoyl)piperazine | C(C)N(CC)CCN1C(CN(CC1)C(C1=C(C=CC=C1)OC(C)=O)=O)C1=CC=CC=C1 | C25H33N3O3
